US07749992B2
Step 6. Preparation of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
Add acetyl chloride (0.3 mmol) followed by pyridine (0.3 mmol) to a solution of 5-(3,5-Bis-trifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester (0.05 g, 0.1 mmol) in dichloromethane (1 mL). After stirring at room temperature for 24 h remove solvent under vacuum. Chromatograph the product over silica gel using ethyl acetate/hexane (10-40%) to elute. This affords the title compound (0.04 g, 71%) as an oil which foams under vacuum: MS (ES+): 563 (M−H).

reactant | acetyl chloride | 0.3 mmol | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.3 mmol | N1=CC=CC=C1 | C5H5N
reactant | 5-(3,5-Bis-trifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 0.05 g | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC(=C2)Cl | C24H25ClF6N2O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.04 g, 71% | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Cl | C26H27ClF6N2O3
